Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Shellfish / Clindamycin / Etodolac
 
Attending: ___.
 
Chief Complaint:
Cellulitis
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year-old man with PMHx of ulcerative colitis 
(on vedolizumab), IDDM, CHF (LVEF = 45%), CKD IIIb, and HTN who 
presents with right lower extremity pain, redness, and chills 
that began suddenly upon waking on ___. He states that he went 
golfing ___ without any arthropod bite or injury to the right 
leg, after which he was doing well that night. On the morning of 
___, he woke up with new onset right lower extremity pain which 
at first he "thought was arthritis" as well as some chills, at 
which point he recognized that he had cellulitis. He called his 
primary care physician, who recommended he come in for 
evaluation. Mr. ___ states that he has had this pain and 
chills before when he was immunosuppressed on Humira 
(adalimumab), and it has come on in the setting of cellulitis 
requiring IV antibiotics. 

Mr. ___ endorses one episode of "dry heaves" on the morning 
of ___, with
resolved nausea and no vomiting. He denies any fevers, chest 
pain, SOB, abdominal pain, diarrhea, dysuria, hematuria, and 
lightheadedness/dizziness. He denies any pain with movement of 
his ankle, knees, or hips.
 
In the ED, initial vital signs were: 98.5 degrees F, 80 BPM, 
143/52 mm Hg, 18 RR, 98% RA. Exam was notable for R ankle with 
warmth, swelling. Pain to the
inferior aspect of the medial malleolus. Labs were notable for: 
    
18.1> 9.___.2<155 
N:83.5 L:8.0 M:7.7 E:0.0 Bas:0.1 ___: 0.7 Absneut: 15.13
___ Abslymp: 1.45 Absmono: 1.40 Abseos: 0.00 Absbaso: 0.02

___
4.6252.0

Ca: 8.7 Mg: 1.6 P: 2.9

He had a lower extremity ultrasound that demonstrated no 
evidence of deep venous thrombosis in the right lower extremity 
veins. He was given 100mg po doxycycline and 1500mg vancomycin 
IV and transitioned to the floor, where he continued to be 
stable and in no acute distress. 
 
Past Medical History:
- Ulcerative colitis  
- Diabetes c/b retinopathy  
- Hypertension  
- Hyperlipidemia  
- OSA on CPAP  
- CKD (baseline Cr~1.3-1.4)  
- H/o nephrolithiasis  
- Gout  
- GERD  
- ETOH abuse 
- CHF 
 
Social History:
___
Family History:
Father deceased ___ MI at age ___, h/o DM
Mother deceased at age ___, h/o nephrolithiasis
Older brother deceased of ALS
Older sister deceased of stroke at age ___
Another brother alive in fair health in his ___
Another sister alive in good health, ___ yo
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=======================
Vitals- 99.8 156/68 78 18 98 ra 
GENERAL: AOx3, NAD
HEENT: Normocephalic, atraumatic.  Pupils equal, round, and 
reactive bilaterally.  No conjunctival pallor or injection, 
sclera anicteric and without injection.  Moist mucous membranes, 
good dentition with dental implants.  Oropharynx is clear.
NECK: Thyroid non-palpable.  No cervical lymphadenopathy.
CARDIAC: Regular rhythm, normal rate, no murmurs/rubs/gallops.  
Difficult to assess for JVD given neck adiposity.
LUNGS: Clear to auscultation bilaterally w/appropriate breath 
sounds appreciated in all fields. very mild, bibasilar crackles. 
No wheezes, rhonchi.
ABDOMEN:  Normal bowels sounds, non distended, non-tender to 
deep palpation in all four quadrants. Tympanic to percussion.  
No organomegaly.
EXTREMITIES: Right lower extremity with large erythematous patch 
with poorly-defined borders, moderate induration, and no 
fluctuance. Bilateral scaling and pigmentation changes on distal 
lower extremities consistent with venous stasis changes. No 
clubbing, cyanosis, or edema.  Faint dorsalis pedis pulses
bilaterally. Passive and active ROM without any pain or 
limitations in R ankle.
SKIN: No evidence of ulcers, rash or lesions suspicious for 
malignancy

DISCHARGE PHYSICAL EXAM:
=======================
Vitals: T: 98.0 BP: 126/63 HR: 63 RR: 18 O2: 94% CPAP
General: Alert, oriented, no acute distress. Sitting 
comfortably. 
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple
Lungs: Normal respiratory effort. Clear to auscultation 
bilaterally, no wheezes, rales, rhonchi.  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops. 
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, 1+ pulses, trace pitting edema to 
mid-shin bilaterally
Skin: Mild erythema and edema around right ankle, moderate 
induration, nontender to palpation, no fluctuance, 
stable/slightly improved from yesterday. Mild warmth, stable. 
FROM of ankle without pain. Bilateral scaling and 
hyperpigmentation extending up to the mid-shin bilaterally R>L 
c/w venous stasis.
Neuro: A&Ox3. Moves all extremities with purpose. Ambulates 
without pain.
 
Pertinent Results:
ADMISSION LABS:
==============
___ 03:45PM BLOOD WBC-18.1*# RBC-3.10* Hgb-9.9* Hct-30.3* 
MCV-98# MCH-31.9# MCHC-32.7 RDW-15.5 RDWSD-54.3* Plt ___
___ 03:45PM BLOOD Neuts-83.5* Lymphs-8.0* Monos-7.7 
Eos-0.0* Baso-0.1 Im ___ AbsNeut-15.13*# AbsLymp-1.45 
AbsMono-1.40* AbsEos-0.00* AbsBaso-0.02
___ 03:45PM BLOOD Glucose-123* UreaN-52* Creat-2.0* Na-137 
K-4.6 Cl-95* HCO3-25 AnGap-17*
___ 03:45PM BLOOD Calcium-8.7 Phos-2.9 Mg-1.6
___ 03:45PM BLOOD Lactate-1.6

PERTINENT LABS/MICRO:
====================
___ 03:45PM BLOOD WBC-18.1*
___ 06:23AM BLOOD WBC-8.4

___ 03:50PM URINE Color-Straw Appear-Clear Sp ___
___ 03:50PM URINE Blood-TR* Nitrite-NEG Protein-100* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 03:50PM URINE RBC-1 WBC-1 Bacteri-FEW* Yeast-NONE Epi-0
___ 03:50PM URINE CastGr-3* CastHy-3*

___ BCx: NGTD
___ urine culture: no growth

DISCHARGE LABS:
==============
___ 06:07AM BLOOD WBC-6.0 RBC-2.64* Hgb-8.5* Hct-26.3* 
MCV-100* MCH-32.2* MCHC-32.3 RDW-15.9* RDWSD-56.0* Plt ___
___ 06:07AM BLOOD Glucose-92 UreaN-43* Creat-2.1* Na-138 
K-3.6 Cl-97 HCO3-25 AnGap-16
___ 06:07AM BLOOD Calcium-8.8 Phos-4.0 Mg-1.7

PERTINENT IMAGING:
================
___ DVT US:
No evidence of deep venous thrombosis in the right lower 
extremity veins.
 
Brief Hospital Course:
Mr. ___ is a ___ y/o man with a history of ulcerative colitis 
(on vedolizumab and mesalamine), HFrEF, IDDM, CKD IIIb who 
presented with one day of ___ edema, erythema, elevated WBC to 
18.1 c/w cellulitis, improved on IV vancomycin and transitioned 
to amoxicillin/trimethoprim-sulfamethoxazole at discharge.

Acute Medical Issues Addressed:
# Cellulitis
Pt presented with one day of ___ swelling, warmth, erythema, and 
pain. No ulceration, purulence, or evidence of abscess or joint 
involvement. WBC to 18.1 on admission. ___ negative for 
DVT. Given comorbid diabetes and immunomodulatory biologic 
agent, patient started on vancomycin with improvement in pain, 
swelling and erythema. He was transitioned to 
amoxicillin/trimethoprim-sulfmethoxazole at discharge with a 
plan for a 14 day course. Of note, it was believed that the 
Vedolizumab did not play a role in the development of 
cellulitis. 

Chronic Medical Issues:
#ETOH use
On presentation, pt reported ___ alcoholic beverages nightly 
without history of withdrawal. Never triggered while on CIWA. 

#Insulin-dependent Diabetes Mellitus
Continued home Lantus 68 units before breakfast daily in 
addition to a conservative sliding scale with good glucose 
control (blood sugars ranged from 118-159).

#Congestive Heart Failure with Reduced Ejection Fraction (LVEF 
45% ___
Pt without evidence of volume overload during his stay. Stable 
on home torsemide 80mg qd. 

#Chronic Kidney Disease (stage IIIb)
CKD secondary to diabetic nephropathy and hypertension 
complicated by proteinuria but not on ___ due to 
hyperkalemia. Also complicated by secondary hyperparathyroidism 
on cinacalcet. Mild anemia not requiring recombinant 
erythropoietin. Potassium, H/H, SCr remained stable and at 
baseline during admission. He received his home cinacacet 60mg 
and po sodium bicarbonate bid. 

#Hypertension
Stable on home torsemide 80mg and metoprolol succinate.

#Ulcerative colitis
Followed by Drs. ___, previously on Humira 
complicated by multiple infections, currently on mesalamine and 
vedolizumab. Pt received his home po and pr mesalamine in-house.

#Obstructive sleep apnea
Continued CPAP.

TRANSITIONAL ISSUES:
=====================
[] Medication changes:
- continue amoxicillin and Bactrim for 12 days (total of 14 day 
course of treatment (last day ___
- no other medication changes
[] Follow up with Dr. ___ Dr. ___ in their ___ 
clinic on ___. 

# Health care proxy/emergency contact: ___ 
(significant other), ___ (cell)
# Code Status: Full, presumed
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sodium Bicarbonate 650 mg PO BID 
2. Allopurinol ___ mg PO DAILY 
3. Cinacalcet 60 mg PO DAILY 
4. Metoprolol Succinate XL 25 mg PO DAILY 
5. Rosuvastatin Calcium 40 mg PO QPM 
6. Glargine 68 Units Breakfast
7. Torsemide 80 mg PO DAILY 
8. Aspirin 81 mg PO DAILY 
9. Mesalamine 2400 mg PO BID 
10. Mesalamine (Rectal) ___AILY 
11. Fish Oil (Omega 3) Dose is Unknown  PO Frequency is Unknown 
 
Discharge Medications:
1.  Amoxicillin 500 mg PO Q12H Duration: 12 Days 
RX *amoxicillin 500 mg 1 capsule(s) by mouth twice daily Disp 
#*24 Capsule Refills:*0 
2.  Sulfameth/Trimethoprim DS 1 TAB PO BID Duration: 12 Days 
RX *sulfamethoxazole-trimethoprim [Bactrim DS] 800 mg-160 mg 1 
tablet(s) by mouth twice daily Disp #*24 Tablet Refills:*0 
3.  Fish Oil (Omega 3) 1000 mg PO DAILY  
4.  Glargine 68 Units Breakfast 
5.  Allopurinol ___ mg PO DAILY  
6.  Aspirin 81 mg PO DAILY  
7.  Cinacalcet 60 mg PO DAILY  
8.  Mesalamine (Rectal) ___AILY  
9.  Mesalamine 1600 mg PO TID  
10.  Metoprolol Succinate XL 25 mg PO DAILY  
11.  Rosuvastatin Calcium 40 mg PO QPM  
12.  Sodium Bicarbonate 650 mg PO BID  
13.  Torsemide 80 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Primary: Cellulitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  

It was a pleasure taking care of you at the ___ 
___.  

Why did you come to the hospital?  
- You were admitted because your right ankle was red, swollen, 
warm, and painful similar to when you have had cellulitis in the 
past.
   
What was done for you in the hospital?  
- We performed blood tests that revealed that you had an 
infection (cellulitis)
- You received antibiotics through your IV which were 
transitioned to antibiotics that you take by mouth before you 
went home
- We performed an ultrasound of your right leg that showed that 
your symptoms were not due to a clot
- We spoke to your gastroenterologist Dr. ___ did not 
think your infection was related to your Vedolizumab therapy.

What should you do once you leave the hospital?  
- Please continue taking your antibiotics for a total of 14 days 
(another 12 days)
- Please continue taking your home medications as prescribed
- Please follow up with your primary care physician (Dr. ___ 
and Dr. ___ in one week
- Please call your doctor if you develop any new symptoms that 
concern you
- Please weigh yourself every morning. If your weight goes up by 
more than 3 lbs, please call your doctor

___ wish you the best!  

Sincerely,
Your ___ Care Team  
 
Followup Instructions:
___